US04242507
N-(N-Benzyloxycarbonyl-L-prolyl)-L-leucine (4.6 g), glycine ethyl ester hydrochloride (1.8 g) and triethylamine (1.78 ml) are dissolved in dry chloroform (40 ml) and thereto is added 1-(p-toluenesulfonyloxy)-6-nitro-1,2,3-benzotriazole (4.25 g) under ice-cooling and the mixture is stirred for 1 hour. After allowing to stand overnight, to the mixture are added water and ethyl acetate. The ethyl acetate layer is washed with 1 N aqueous ammonia containing 5% NaCl (six times), water, 1 N hydrochloric acid and water in order, dried over anhydrous magnesium sulfate, and then the solvent is distilled off. The resulting residue is washed with ether-petroleum ether to give N-[N-(N-benzyloxycarbonyl-L-prolyl)-L-leucyl]glycine ethyl ester (3.0 g), melting point: 149°-150° C.

reactant | N-(N-Benzyloxycarbonyl-L-prolyl)-L-leucine | 4.6 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)N[C@@H](CC(C)C)C(=O)O)CCC1 | C19H26N2O5
reactant | glycine ethyl ester hydrochloride | 1.8 g | Cl.C(C)OC(CN)=O
reactant | triethylamine | 1.78 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(p-toluenesulfonyloxy)-6-nitro-1,2,3-benzotriazole | 4.25 g | C1(=CC=C(C=C1)S(=O)(=O)ON1N=NC2=C1C=C(C=C2)[N+](=O)[O-])C | C13H10N4O5S
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | N-[N-(N-benzyloxycarbonyl-L-prolyl)-L-leucyl]glycine ethyl ester | 3.0 g | C(C)OC(CNC([C@@H](NC([C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1)=O)CC(C)C)=O)=O | C23H33N3O6
